US05576324
Z-2-Penten-1-ol (5.0 g, 58.1 mmol), trimethylamine (6.45 g, 63.9 mmol), methanesulfonylchloride (7.0 g, 61.1 mmol) and ether (30 ml) were allowed to react at ambient temperature for 1 hour. After the completion of the reaction, the insoluble matter was removed and washed with water. The washed substance was dried over sodium sulfate. The solvent was distilled off to obtain 7.95 g of Z-1-mesyloxy-2-pentene as pale yellow oily material (83.4%). This material was added to a mixture of 3,8-dimethyl-5-hydroxycarbostyril (7.0 g, 37.0 mmol), potassium carbonate (10.2 g, 74.0 mmol) and dimethylformamide (210 ml), and allowed to react at 70° C. for 1 hour. The reaction mixture was condensed under reduced pressure, and the residue was poured into water to obtain 7.36 g of the title compound as a brown solid (77.3%).

reactant | Z-2-Penten-1-ol | 58.1 mmol, 5.0 g | C(\C=C/CC)O | C5H10O
reactant | trimethylamine | 63.9 mmol, 6.45 g | CN(C)C | C3H9N
reactant | methanesulfonylchloride | 61.1 mmol, 7.0 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | ether | 30 ml | CCOCC | C4H10O
product | Z-1-mesyloxy-2-pentene | 7.95 g | S(=O)(=O)(C)OC\C=C/CC | C6H12O3S
